US04822375
Preparation of the compound No. 25 of Table I 5,6-Bis(trimethylsilyloxy)-3-methylindole
5,6-Dihydroxy-3-methylindole (0.3 g; 0.0018 mole) and N,O-bis(trimethylsilyl)acetamide (0.61 g; 0.0036 mole) are stirred for 30 minutes at room temperature. The solution obtained is chromatographed on silica 60 (eluent: CH2Cl2) to give the derivative 25 (0.43 g; 78% yield).

reactant | 5,6-Dihydroxy-3-methylindole | 0.0018 mole, 0.3 g | OC=1C=C2C(=CNC2=CC1O)C | C9H9NO2
reactant | N,O-bis(trimethylsilyl)acetamide | 0.0036 mole, 0.61 g | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
product | 5,6-Bis(trimethylsilyloxy)-3-methylindole | 78% yield | C[Si](OC=1C=C2C(=CNC2=CC1O[Si](C)(C)C)C)(C)C | C15H25NO2Si2
